US06177443B1
2-(2-Thienyl)-ethylamine (5 g, 39.4 mmol), 4-nitrobenzaldehyde and triethylamine (10 ml) were dissolved in ethanol (100 ml). The reaction mixture was stirred at room temperature for 48 hours. The solid formed was filtered and dried to afford 7.75 g (76%) (4-nitrobenzylidene)-(2-thiophen-2-yl-ethyl)-amine.

reactant | 2-(2-Thienyl)-ethylamine | 39.4 mmol, 5 g | S1C(=CC=C1)CCN | C6H9NS
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (4-nitrobenzylidene)-(2-thiophen-2-yl-ethyl)-amine | 7.75 g, 76% | [N+](=O)([O-])C1=CC=C(C=NCCC=2SC=CC2)C=C1 | C13H12N2O2S
